US07138533B2
5-Chloro-1-(4-methoxyphenyl)-1-pentanone
Using anisole (15.0 g) and 5-chlorovaleryl chloride (18.0 ml) according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals (27.3 g) having a melting point of 67 to 68° C.

reactant | anisole | 15.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 5-chlorovaleryl chloride | 18.0 ml | ClCCCCC(=O)Cl | C5H8Cl2O
product | 5-Chloro-1-(4-methoxyphenyl)-1-pentanone | ClCCCCC(=O)C1=CC=C(C=C1)OC | C12H15ClO2
